US04180672
2,3-Epoxycyclopentanone (1.0 g) and 1.06 g of 3-phenylpropyl mercaptan were dissolved in 20 ml of diethyl ether, and 20 drops of triethylamine were added. They were reacted at room temperature for 2 hours. After the reaction, the solvent was distilled off from the reaction mixture under reduced pressure. The residue (1.50 g) was chromatographed on a dry column with cyclohexane/ethyl acetate (=8/2) to afford 1.03 g of 2-(3-phenylpropylthio)cyclopent-2-en-1-one in a yield of 64%. The product had the following characteristics.

reactant | 2,3-Epoxycyclopentanone | 1.0 g | O1C2C(CCC21)=O | C5H6O2
reactant | 3-phenylpropyl mercaptan | 1.06 g | C1(=CC=CC=C1)CCCS | C9H12S
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
catalyst | triethylamine | 20 drops | C(C)N(CC)CC | C6H15N
product | 2-(3-phenylpropylthio)cyclopent-2-en-1-one | 1.03 g, yield of 64% | C1(=CC=CC=C1)CCCSC=1C(CCC1)=O | C14H16OS
